US05466805
Tetrabromonaphthalene-1,2-dicarboxylic anhydride: 2.0 g of naphthalene-1,2-dicarboxylic anhydride, 0.05 g of ferrum reductum and 5.2 ml of bromine are heated at 210° C. for 6 hours using a long intensive condenser. Working up analogously to Example 61a) gives 5.0 g of tetrabromonaphthalene-1,2-dicarboxylic acid, which is converted into the anhydride with acetic anhydride. Yield: 4.8 g (94%), bromine content: 62.4% (theoretical 62.7%).

reactant | Tetrabromonaphthalene-1,2-dicarboxylic anhydride | BrC1=C(C2=C(C(=C3C(=C2C=C1)C(=O)OC3=O)Br)Br)Br | C12H2Br4O3
reactant | naphthalene-1,2-dicarboxylic anhydride | 2.0 g | C=12C(=CC=C3C=CC=CC13)C(=O)OC2=O | C12H6O3
reactant | bromine | 5.2 ml | BrBr | Br2
product | tetrabromonaphthalene-1,2-dicarboxylic acid | 5.0 g | BrC1=C(C2=C(C(=C(C(=C2C=C1)C(=O)O)C(=O)O)Br)Br)Br | C12H4Br4O4
